* Z:\mnt\design.r\spice\examples\1736.asc
XU1 N001 N003 N007 MP_01 0 N009 OUT N005 N011 OUT 0 0 0 0 0 N010 MP_02 0 N012 N010 IN N004 N008 N002 LTC1736
M§Q1 N004 N012 0 0 Si4410DY
M§Q2 IN N002 N004 N004 Si4410DY
L1 N004 N005 1.5µ
R1 N005 OUT 6m
C1 OUT 0 180µ Rser=25m
C2 N004 N008 .22µ
D1 N010 N008 1N5817
C3 N007 N006 330p
R2 N006 0 10K
C4 N001 0 43p
C5 N003 0 .001µ
V1 IN 0 7
R3 N009 OUT 100K
C7 N010 0 4.7µ
D2 0 N004 1N5818
C8 N005 OUT 1000p
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.2m startup
.lib LTC1736.sub
.backanno
.end
